US05763599
Thymidine (150 mg, 0.62 mmol) was co-evaporated with pyridine (2×5 ml, pro analysi quality, additionally dried over molecular sieve 4 Å), dissolved in pyridine and cooled to -30° C. A solution of 2-(4-chloro-2-nitrophenyl)ethoxycarbonyl chloride (255 mg, 0.97 mmol) in CH2Cl2 (3 ml, dist. over CaH2) was added dropwise thereto for 5 min. After being stirred for 4 h in conditions of i-PrOH/N2 cooling (-30° to -15° C.), the mixture was diluted with CH2Cl2 (30 ml) and washed with H2O (30 ml). The aqueous phase was post-extracted with CH2Cl2 (2×30 ml). The combined organic phases were dried over MgSO4, filtered and co-evaporated with toluene (4×10 ml) and CH2Cl2 (20 ml). The crude product was purified by column chromatography (SiO2 15×3 cm, solvent: CH2Cl2 /MeOH 100:7 700 ml). 5'-O-(2-(4-chloro-2-nitrophenyl)ethoxycarbonyl)thymidine (219 mg, 75% ) was obtained as a colorless solid.

reactant | Thymidine | 0.62 mmol, 150 mg | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 2-(4-chloro-2-nitrophenyl)ethoxycarbonyl chloride | 0.97 mmol, 255 mg | ClC1=CC(=C(C=C1)CCOC(=O)Cl)[N+](=O)[O-] | C9H7Cl2NO4
reactant | i-PrOH N2 | CC(C)O.N#N
solvent | CH2Cl2 | 3 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 5'-O-(2-(4-chloro-2-nitrophenyl)ethoxycarbonyl)thymidine | 219 mg, 75% | ClC1=CC(=C(C=C1)CCOC(=O)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)[N+](=O)[O-] | C19H20ClN3O9
